US07576115B2
Synthesis of 4-{[(2-{1-[5-(4-ethylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonothioyl]amino}benzoic acid
1-[5-(4-Ethylphenyl)-1-methyl-4-hydroxy-1H-pyrazol-3-yl]ethanone (0.159 mmol, 38.8 mg) and 4-hydrazinocarbonothioylaminobenzoic acid (0.159 mmol, 33.6 mg) were stirred with dimethylformamide (2.3 mL) and three drops of concentrated hydrochloric acid at room temperature for 23.5 hours. After addition of water, the precipitated yellow solid was recovered by filtration, washed with water and dried by means of a vacuum pump. The resulting solid was stirred with chloroform/n-hexane for a while, then recovered by filtration and dried by means of a vacuum pump to give the desired product as a pale yellow solid (50.6 mg, yield 73%).

reactant | 1-[5-(4-Ethylphenyl)-1-methyl-4-hydroxy-1H-pyrazol-3-yl]ethanone | 0.159 mmol, 38.8 mg | C(C)C1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=O)O | C14H16N2O2
reactant | 4-hydrazinocarbonothioylaminobenzoic acid | 0.159 mmol, 33.6 mg | N(N)C(=S)NC1=CC=C(C(=O)O)C=C1 | C8H9N3O2S
reactant | dimethylformamide | 2.3 mL | CN(C=O)C | C3H7NO
catalyst | hydrochloric acid | three drops | Cl | ClH
solvent | water | O | H2O
product | 4-{[(2-{1-[5-(4-ethylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonothioyl]amino}benzoic acid | 50.6 mg, yield 73% | C(C)C1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=NNC(=S)NC1=CC=C(C(=O)O)C=C1)O | C22H23N5O3S
